US09315491B2
2-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester
2,6-dichloro-5-ethoxy-pyrimidine-4-carboxylic acid ethyl ester (2 g, 1 eq.) was stirred in toluene (80 ml) and a solution of morpholine (0.73 ml, 1.1 eq.) in toluene (20 ml) was added dropwise in about 10 minutes at −10˜0° C., after stirring the resulting solution for 3 h at r.t. Water was added and extracted with EA. The combined organic layers were washed with brine, dried and evaporated in vacuo. Purification by flash chromatography gave a product (1.79 g, 75%).

reactant | 2,6-dichloro-5-ethoxy-pyrimidine-4-carboxylic acid ethyl ester | 2 g, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)Cl)Cl | C9H10Cl2N2O3
reactant | morpholine | 0.73 ml, 1.1 eq. | N1CCOCC1 | C4H9NO
reactant | Water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 1.79 g, 75% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)Cl | C13H18ClN3O4
